US09169254B2
(4-Bromo-5-methyl-2-trimethylsilanylethynyl-phenyl)-carbamic acid methyl ester (506 mg, 1.49 mmol) was dissolved in ethanol (6 ml). Sodium ethoxide (20% solution in ethanol, 1.17 ml, 2.97 mmol) was added and the mixture was stirred at 70° C. overnight. The reaction solution was poured into ice water, and 1 N hydrochloric acid and saturated brine were added to this mixture, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to give 5-bromo-6-methyl-1H-indole (207 mg, 66%).

reactant | (4-Bromo-5-methyl-2-trimethylsilanylethynyl-phenyl)-carbamic acid methyl ester | 1.49 mmol, 506 mg | COC(NC1=C(C=C(C(=C1)C)Br)C#C[Si](C)(C)C)=O | C14H18BrNO2Si
reactant | Sodium ethoxide | 2.97 mmol, 1.17 ml | [O-]CC.[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 5-bromo-6-methyl-1H-indole | 207 mg, 66% | BrC=1C=C2C=CNC2=CC1C | C9H8BrN
